US04137230
In 600 ml of methanol was suspended 53.5 g (0.52 mol) of N-methyl-L-alanine and under ice-cooling and stirring, 75 g of dry hydrogen chloride gas was dissolved. The suspension of the starting material cleared gradually with reaction time and, on stirring overnight, yielded a homogeneous solution. To the reaction mixture was added 85 g (0.8 mol) of methyl orthoformate and the mixture was allowed to stand at room temperature for 24 hours. The small quantities of insolubles were filtered off and the filtrate was concentrated under reduced pressure. By the above procedure was obtained a solid product of N-methyl-L-alanine methyl ester hydrochloride.

reactant | N-methyl-L-alanine | 0.52 mol, 53.5 g | CN[C@@H](C)C(=O)O | C4H9NO2
reactant | hydrogen chloride | 75 g | Cl | ClH
reactant | methyl orthoformate | 0.8 mol, 85 g | C(OC)([O-])[O-]
solvent | methanol | 600 ml | CO | CH4O
product | N-methyl-L-alanine methyl ester hydrochloride | Cl.COC([C@@H](NC)C)=O | InChI=1S/C5H11NO2.ClH/c1-4(6-2)5(7)8-3;/h4,6H,1-3H3;1H/t4-;/m0./s1
